US06313122B1
Preparation of N1-(4-Methoxybenzoyl)-N2-[1-(2-thiazolylmethyl)piperidin-4-ylcarbonyl]-1,2-benzenediamine
Using the general procedure described in Example 3, N1-(4-methoxybenzoyl)-N2-(piperidin-4-ylcarbonyl)-1,2-benzenediamine (0.070 mmol) was reacted with 2-thiazolecarboxaldehyde to provide 28 mg of the title product as the free base. Treatment with hydrochloric acid and concentration in vacuo yielded the salt of the title compound.

reactant | N1-(4-methoxybenzoyl)-N2-(piperidin-4-ylcarbonyl)-1,2-benzenediamine | 0.070 mmol | COC1=CC=C(C(=O)NC=2C(=CC=CC2)NC(=O)C2CCNCC2)C=C1 | C20H23N3O3
reactant | 2-thiazolecarboxaldehyde | S1C(=NC=C1)C=O | C4H3NOS
product | N1-(4-Methoxybenzoyl)-N2-[1-(2-thiazolylmethyl)piperidin-4-ylcarbonyl]-1,2-benzenediamine | 28 mg | COC1=CC=C(C(=O)NC=2C(=CC=CC2)NC(=O)C2CCN(CC2)CC=2SC=CN2)C=C1 | C24H26N4O3S
